US04064228
A solution of 0.5g of 2-(4'carboxyphenylazo)-3,6-diacetylmorphine in 10 ml 0.1 N NaOH was stirred at room temperature and examined hourly by silica gel TLC for the presence of the monoacetyl derivative, the solvent system being methylene chloride: methanol: water: acetic acid (80:20:1:1) and the rf value for azomonoacetyl morphine 0.39. When TLC showed most of the starting material to have hydrolyzed the reaction mixture was concentrated and passed down a silica gel column. The fraction containing the desired product was evaporated to dryness to give 2-(4'carboxyphenylazo) -6 acetyl morphine.

reactant | 2-(4'carboxyphenylazo)-3,6-diacetylmorphine | 0.5g | C(=O)(O)C1=CC=C(C=C1)N=NC1C=C2C[C@@H]3[C@@H]4C=C[C@@]([C@H]5[C@@]4(C2=C(C1(O)C(C)=O)O5)CCN3C)(O)C(C)=O | C28H29N3O7
reactant | methylene chloride methanol water acetic acid | C(Cl)Cl.CO.O.C(C)(=O)O
solvent | NaOH | 0.1 N, 10 ml | [OH-].[Na+]
product | 2-(4'carboxyphenylazo) -6 acetyl morphine | C(=O)(O)C1=CC=C(C=C1)N=NC1=CC=2C[C@@H]3[C@@H]4C=C[C@@]([C@H]5[C@@]4(C2C(=C1O)O5)CCN3C)(O)C(C)=O | C26H25N3O6
